US04863904
To a solution of 406 mg of 2-cyano-3-phenylpropionic acid ethyl ester in 10 ml of ethanol were added 1.1 ml of a 2N-aqueous sodium hydroxide solution, and then the mixture was stirred for 16 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in water and washed with diethyl ether. The aqueous solution was adjusted to a pH of 2 by adding a 2N-hydrochloric acid and extracted with diethyl ether. The ethereal layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 324 mg of 2-cyano-3-phenylpropionic acid.

reactant | 2-cyano-3-phenylpropionic acid ethyl ester | 406 mg | C(C)OC(C(CC1=CC=CC=C1)C#N)=O | C12H13NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-cyano-3-phenylpropionic acid | 324 mg | C(#N)C(C(=O)O)CC1=CC=CC=C1 | C10H9NO2
